US06127361
A hydrogen chloride ether saturated solution was added to a solution of 0.4 g (1.0 mmol) of (R)-(+)-5,11-dihydro-5-[1-(4-cyanophenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e] [1,4]oxazepine in 2 ml of dichloromethane, and the mixture was stirred for 5 minutes. Then, the solvent was distilled off under reduced pressure. The resulting residue was recrystallized from a mixed solvent of dichloromethane and diethyl ether to give 0.35 g (78%) of (R)-(+)-5,11-dihydro-5-[1-(4-cyanophenethyl)-2-pyrrolidinyl methyl]dibenzo[b,e][1,4]oxazepine hydrochloride as a colorless prism crystal in a yield of 78%.

reactant | (R)-(+)-5,11-dihydro-5-[1-(4-cyanophenethyl)-2-pyrrolidinylmethyl]dibenzo[b,e] [1,4]oxazepine | 1.0 mmol, 0.4 g | C(#N)C1=CC=C(CCN2[C@H](CCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C27H27N3O
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (R)-(+)-5,11-dihydro-5-[1-(4-cyanophenethyl)-2-pyrrolidinyl methyl]dibenzo[b,e][1,4]oxazepine hydrochloride | 0.35 g, 78% | Cl.C(#N)C1=CC=C(CCN2[C@H](CCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | InChI=1S/C27H27N3O.ClH/c28-18-22-13-11-21(12-14-22)15-17-29-16-5-7-24(29)19-30-25-8-2-1-6-23(25)20-31-27-10-4-3-9-26(27)30;/h1-4,6,8-14,24H,5,7,15-17,19-20H2;1H/t24-;/m1./s1
